US06642226B2
Rac-cis-[4-(4-Benzoyl-piperazin-1-yl)-3-phenyl-piperidin-1-yl]-(3,5-bis-trifluoromethyl-phenyl)-methanone
The title compound, MS: m/e=590.2 (M+H+), was prepared in accordance with the general method of example 38 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone and benzoyl chloride.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1)(F)F | C24H25F6N3O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | Rac-cis-[4-(4-Benzoyl-piperazin-1-yl)-3-phenyl-piperidin-1-yl]-(3,5-bis-trifluoromethyl-phenyl)-methanone | C(C1=CC=CC=C1)(=O)N1CCN(CC1)[C@@H]1[C@@H](CN(CC1)C(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C31H29F6N3O2
